US04357342
To a flame dried, 50 ml, 3-neck flask fitted with a N2 inlet, magnetic stirrer, addition funnel, and serum cap are added anhydrous tetrahydrofuran (THF) (10.5 ml) and diisopropyl amine (0.579 ml, 4.13 mmol). The solution is cooled in an ice-methanol bath under N2 and treated with 2.4 N n-butyl lithium in hexane (1.72 ml). After being stirred at -10° for 15 mins, the solution is cooled to -78° and treated dropwise over 9 mins with a solution of benzyl acetate (0.620 g, 4.13 mmol) in anhydrous THF (3.5 ml). After stirring 15 more mins at -78° C., the reaction mixture is treated dropwise over 13 mins with a solution of N-(t-butyldimethylsilyl)-4-(2-oxoethyl)-azetidin-2-one (0.894 g, 3.93 mmol) in anhydrous THF (6 ml). The reaction mixture is stirred at -78° an additional 15 mins and then quenched with 2.5 N HCl (6 ml). EtOAc (100 ml) is added and the organic phase is separated, washed with H2O (2×20 ml), 5% NaHCO3 (20 ml) and brine, dried with MgSO4, and filtered. The filtrate is evaporated i.v. and the residue stripped with φH (benzene) to yield N-(t-butyldimethylsilyl)-4-(3-benzyloxycarbonyl-2-hydroxypropyl)-azetidin-2-one (1.432 g) as an oil: ir (neat) 2.87, 5.73, 5.79, 7.57, 7.96, 8.39, 11.92, and 12.16 cm-1 ; mass spectrum m/e 362, 320, 278, 170 and 128.

reactant | diisopropyl amine | 4.13 mmol, 0.579 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 2.4 N | C(CCC)[Li]
reactant | benzyl acetate | 4.13 mmol, 0.620 g | C(C)(=O)OCC1=CC=CC=C1 | C9H10O2
reactant | N-(t-butyldimethylsilyl)-4-(2-oxoethyl)-azetidin-2-one | 3.93 mmol, 0.894 g | [Si](C)(C)(C(C)(C)C)N1C(CC1CC=O)=O | C11H21NO2Si
solvent | hexane | 1.72 ml | CCCCCC | C6H14
solvent | THF | 3.5 ml | O1CCCC1 | C4H8O
solvent | THF | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10.5 ml | O1CCCC1 | C4H8O
product | N-(t-butyldimethylsilyl)-4-(3-benzyloxycarbonyl-2-hydroxypropyl)-azetidin-2-one | 1.432 g | [Si](C)(C)(C(C)(C)C)N1C(CC1CC(CC(=O)OCC1=CC=CC=C1)O)=O | C20H31NO4Si
